US05068371
1-[3-(2,4-Difluorophenyl)propyl]-1H-pyrrole
17.1 g (0.10 mol) of 3-(2,4-difluorophenyl)propylamine are heated at 260° C. for 2 hours in an autoclave with 13.2 g (0.10 mol) of 2,4-dimethoxytetrahydrofuran. The reaction mixture is cooled and then purified by vacuum distillation. 10.6 g (48% of theory) of a colourless oil which boils at 80° C. and 0.2 mbar or 146°-147° C. and 15 mbar are obtained.

reactant | 3-(2,4-difluorophenyl)propylamine | 0.10 mol, 17.1 g | FC1=C(C=CC(=C1)F)CCCN | C9H11F2N
reactant | 2,4-dimethoxytetrahydrofuran | 0.10 mol, 13.2 g | COC1OCC(C1)OC | C6H12O3
product | 1-[3-(2,4-Difluorophenyl)propyl]-1H-pyrrole | FC1=C(C=CC(=C1)F)CCCN1C=CC=C1 | C13H13F2N
